US08895777B2
Preparation of 4-(2-Fluoro-5-methyl-phenoxy)-butyric acid
A 200 ml 3-neck round bottom flask equipped with a magnetic stirrer bar and a reflux condenser was charged with 4.99 g (40 mmol) of 2-fluoro-5-methyl phenol, 9.01 g (44 mmol) of ethyl 4-bromobutyrate, 6.63 g (48 mmol) potassium carbonate and 120 ml of 2-butanone. The slurry heated to reflux. After stirring for 14.5 hr at reflux, the reaction mixture was cooled to 25° C., filtered and concentrated. The residue was taken up in water (200 ml) and treated with 42 ml (84 mmol) 2N aqueous sodium hydroxide. The reaction mixture was heated to reflux for 2 hours and cooled to 25° C. The yellow solution was acidified with 45 ml 2N aqueous hydrochloric acid. The resulting white solid was isolated by filtration washing with twice with water then twice with hexanes to yield 7.64 g (90%), mp 62-64° C. Combustion analysis: Found: C, 62.2%; H, 6.19%; Calculated: C, 62.26%; H, 6.17%; 1H NMR analysis (d6-DMSO): δ 12.2, broad s, 1H, (COOH); δ7.0, m, 2H (aryl H); δ 6.7, s, 1H (aryl H); δ 4.0, t, 2H (CH2 α ArO); δ 2.4, t, 2H (CH2 α COOH); δ 2.21, s, 3H (CH3 para F); δ 1.90, m, 2H (CH2 β COOH).

reactant | 2-fluoro-5-methyl phenol | 40 mmol, 4.99 g | FC1=C(C=C(C=C1)C)O | C7H7FO
reactant | ethyl 4-bromobutyrate | 44 mmol, 9.01 g | BrCCCC(=O)OCC | C6H11BrO2
reactant | potassium carbonate | 48 mmol, 6.63 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium hydroxide | 84 mmol, 2N, 42 ml | [OH-].[Na+]
reactant | hydrochloric acid | 2N, 45 ml | Cl | ClH
solvent | 2-butanone | 120 ml | CC(CC)=O | C4H8O
product | 4-(2-Fluoro-5-methyl-phenoxy)-butyric acid | FC1=C(OCCCC(=O)O)C=C(C=C1)C | C11H13FO3
